US07728150B2
N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-benzenesulfonamide
Utilizing 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine and benzenesulfonyl chloride, the title compound is prepared as in example 15. 0.21 g (33%). LC-MS m/z 295.1 (M++1).

reactant | 3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-ylamine | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)N | C19H19FN2
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | N-[3-(1-ethyl-5-fluoro-indan-1-yl)-1H-indol-7-yl]-benzenesulfonamide | C(C)C1(CCC2=CC(=CC=C12)F)C1=CNC2=C(C=CC=C12)NS(=O)(=O)C1=CC=CC=C1 | C25H23FN2O2S
